US04959385
To 135 cc of a 1.6M solution of n-butyllithium in hexane maintained in an atmosphere of argon at a temperature of about -60° C., add, dropwise, over 10 minutes, a solution of 22 g of di-isopropylamine in 125 cc of a mixture of anhydrous hexamethylphosphoric triamide and anhydrous tetrahydrofuran (47:53 v/v) and stir the mixture for 5 minutes. Then add, dropwise, over 20 minutes, a solution of 28 g of 2-phenyltetrahydrothiophene in 125 cc of the mixture of anhydrous hexamethylphosphoric triamide and anhydrous tetrahydrofuran (47:53 v/v) and stir the mixture for 10 minutes. Then add, dropwise, over 15 minutes, a solution of 18.3 of methyl isothiocyanate in 62 cc of the mixture of anhydrous hexamethylphosphoric triamide and anhydrous tetrahydrofuran (47:53 v/v), stirring the mixture at the same temperature initially for 45 minutes, then for 1 hour, allowing the temperature to increase progressively to +15° C. Lastly, add 600 cc of distilled water and 600 cc of ethyl acetate. After separation, the organic phase is washed successively with 600 cc of distilled water, 250 cc of an aqueous solution of N hydrochloric acid, twice with 600 cc (1200 cc in total) of distilled water, then dried over anhydrous sodium sulphate, filtered and concentrated to dryness under reduced pressure (15 mm Hg; 2 kPa) at 45° C. The product obtained (37.5 g) is dissolved in 100 cc of boiling ethanol and activated charcoal is added to the solution thus obtained; the solution is then filtered, cooled and set aside for 2 hours at a temperature of about 20° C. The crystals formed are separated by filtration, washed with 15 cc of ethanol, then twice with 20 cc (40 cc in total) of di-isopropyl oxide and dried under reduced pressure (15 mm Hg; 2 kPa) at 20° C. The product obtained (17.7 g) is mixed with 1.3 g of the same product prepared beforehand under the same conditions, then dissolved in 70 cc of boiling ethanol. Activated charcoal is added to the solution thus obtained; the solution is then filtered while hot, cooled and set aside for 1 hour at a temperature of about 5° C. The crystals formed are separated by filtration, washed with 10 cc of ethanol and twice with 10 cc (20 cc in total) of di-isopropyl oxide and dried under reduced pressure (1 mm Hg; 0.13 kPa) at 53° C. 15.5 g of N-methyl-2-phenyltetrahydrothiophene-2-carbothioamide, with a melting point of 113° C, is thus obtained.

reactant | n-butyllithium | C(CCC)[Li]
reactant | di-isopropylamine | 22 g | C(C)(C)NC(C)C | C6H15N
reactant | 2-phenyltetrahydrothiophene | 28 g | C1(=CC=CC=C1)C1SCCC1 | C10H12S
reactant | methyl isothiocyanate | CN=C=S | C2H3NS
reactant | charcoal | C | CH4
solvent | hexane | CCCCCC | C6H14
solvent | ethanol | 100 cc | C(C)O | C2H6O
solvent | ethanol | 70 cc | C(C)O | C2H6O
solvent | ethyl acetate | 600 cc | C(C)(=O)OCC | C4H8O2
solvent | water | 600 cc | O | H2O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | hexamethylphosphoric triamide | CN(P(N(C)C)(N(C)C)=O)C | C6H18N3OP
product | N-methyl-2-phenyltetrahydrothiophene-2-carbothioamide | 15.5 g | CNC(=S)C1(SCCC1)C1=CC=CC=C1 | C12H15NS2
